US05621129
To a solution of 1-bromonaphthalene (10 g, 48 mmol) in THF (100 ml), a 1.65 M solution of n-butyl lithium in n-hexane (58 ml, 96 mmol of n-butyl lithium) and stirred at -78° C. for one hour. Then, trimethoxyborane (10 g, 96 mmol) was added, and the mixture was stirred at -78° C. for 30 minutes, and then at room temperature for one hour. To the mixture, phenothiazine (132 mg) and then a mixture of conc. hydrochloric acid (20 ml), phosphoric acid (30 ml) and water (220 ml) were gradually added. After heating the mixture to room temperature and stirring it for 20 hours, the organic layer was separated. The aqueous solution was washed with diethyl ether. The combined organic layer was washed with a 10% aqueous solution of sodium chloride. To the ice-cooled organic layer, a 5% aqueous solution of sodium hydroxide was added and stirred. Then, the mixture was phase separated, and the aqueous layer was saturated with sodium chloride, acidified with phosphoric acid, and extracted with diethyl ether. The diethyl ether layer was dried over anhydrous magnesium sulfate. The solvent was evaporated off, and the obtained solid residue was recrystallized from ethyl acetate/n-hexane to obtain naphthylboric acid (4.20 g).

reactant | 1-bromonaphthalene | 48 mmol, 10 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | n-butyl lithium | C(CCC)[Li]
reactant | n-hexane | 96 mmol, 58 ml | CCCCCC | C6H14
reactant | trimethoxyborane | 96 mmol, 10 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | phosphoric acid | 30 ml | P(O)(O)(O)=O | H3O4P
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | phenothiazine | 132 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | water | 220 ml | O | H2O
product | naphthylboric acid | 4.20 g | C1(=CC=CC2=CC=CC=C12)OB(O)O | C10H9BO3
